US08207164B2
h) [5-(5-Bromo-2-fluoro-phenyl)-5-difluoromethyl-5,6-dihydro-2H-[1,4]oxazin-3-yl]-carbamic acid tert-butyl ester
To an ice-cold solution of 6.38 g (19.75 mmol) 5-(5-bromo-2-fluoro-phenyl)-5-difluoromethyl-5,6-dihydro-2H-[1,4]oxazin-3-ylamine in 100 ml THF were added 5.60 g (25.67 mmol) Boc2O and 5.17 ml (29.6 mmol) DIPEA. The mixture was stirred for 4 h at rt. Then the mixture was diluted with TBME and washed with 5% aqueous NaHCO3. The organic phase was dried with MgSO4.H2O, filtered and concentrated. Purification by chromatography on silica gel (hexane/5-20% EtOAc) gave the desired product as a colorless solid.

reactant | 5-(5-bromo-2-fluoro-phenyl)-5-difluoromethyl-5,6-dihydro-2H-[1,4]oxazin-3-ylamine | 19.75 mmol, 6.38 g | BrC=1C=CC(=C(C1)C1(N=C(COC1)N)C(F)F)F | C11H10BrF3N2O
reactant | Boc2O | 25.67 mmol, 5.60 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | DIPEA | 29.6 mmol, 5.17 ml | CCN(C(C)C)C(C)C | C8H19N
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | TBME | CC(C)(C)OC | C5H12O
product | [5-(5-Bromo-2-fluoro-phenyl)-5-difluoromethyl-5,6-dihydro-2H-[1,4]oxazin-3-yl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC=1COCC(N1)(C(F)F)C1=C(C=CC(=C1)Br)F)=O | C16H18BrF3N2O3
